datasets/10k__Tet_Int.csv
SMILES Labelled
"[H][O+:10](C(C9=CC=CC=C9)C(C)C(C)[O]1)[C:20]1([NH:21]CC)[O]C.[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C(C)C(C)[O][C:20]([O]C)=[NH+:21]CC 21=20;20,10=10"
"[H][O+:10](C([H])C(CC)[S]1)[C:20]1([O:21]C)[S][H].[Cl-]>>[Cl-].[H][O:10]C([H])C(CC)[S][C:20]([S][H])=[O+:21]C 21=20;20,10=10"
"CC1C(C(O[C:20](=[O:10])N1[H])C)[H].[O-:21]CC>>CC1C(C(O[C:20](N1[H])([O-:10])[O:21]CC)C)[H] 21=20;20,10=10"
"CC[NH:10][H].[H][NH+:21]=[C:20]([NH]CC)[NH][H].[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]([NH:21][H])([NH]CC)[NH][H] 10=20;20,21=21"
"[H][O:10]C([H])C([H])C(C)[O][C:20]([O]C)=[NH+:21]C.[Cl-]>>[Cl-].[H][O+:10](C([H])C([H])C(C)[O]1)[C:20]1([NH:21]C)[O]C 10=20;20,21=21"
"[H][S+:10](C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[S]1)[C:20]1([O:21][H])[S]CC.[Cl-]>>[Cl-].[H][S:10]C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[S][C:20]([S]CC)=[O+:21][H] 21=20;20,10=10"
"CC[O+:10]([H])[C:20]([NH:21]CC)([NH]C8=CC=CC=C8)[O]CC.[Cl-]>>[Cl-].CC[O:10][H].CC[NH+:21]=[C:20]([NH]C8=CC=CC=C8)[O]CC 21=20;20,10=10"
"CC[NH+:10]([H])[C:20]1([NH:21]CC)[O]C(CC)C(CC)[NH]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[O]C(CC)C(CC)[NH]2.CC[NH:10][H] 21=20;20,10=10"
"C[NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH](C)C([H])[NH]2.C9=CC=CC=C9[NH:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]C)[NH][CH](C7=CC=CC=C7)C(C)[CH]([H])[NH]1 10=20;20,21=21"
"[H][O+:10](C(C9=CC=CC=C9)C(CC)[O]1)[C:20]1([O:21]C)[S][H].[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C(CC)[O][C:20]([S][H])=[O+:21]C 21=20;20,10=10"
"[H][S:10]C(CC)C(C8=CC=CC=C8)[S][C:20]([S]CC)=[O+:21][Si](C)(C)(C).[Cl-]>>[Cl-].[H][S+:10](C(CC)C(C8=CC=CC=C8)[S]1)[C:20]1([O:21][Si](C)(C)(C))[S]CC 10=20;20,21=21"
"C1=CC=CC=C1C1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21]CC)[H])CC>>C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1CCCCCC)[H])CC.[O-:21]CC 10=20;20,21=21"
"[H][NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH](C7=CC=CC=C7)C([H])[CH](C)[NH]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH]([H])C(C)[NH]2.[H][NH:10][H] 21=20;20,10=10"
"C1=CC=CC=C1C1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21][H])C1=CC=CC=C1)[H]>>C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1CCCCCC)C1=CC=CC=C1)[H].[O-:21][H] 10=20;20,21=21"
"C[NH:10][H].C6=CC=CC=C6[NH+:21]=[C:20]([O][H])[NH][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]([NH:21]C6=CC=CC=C6)([O][H])[NH][H] 10=20;20,21=21"
"[H][O:10]C([H])C(C8=CC=CC=C8)[O][C:20]([S]C)=[O+:21][H].[Cl-]>>[Cl-].[H][O+:10](C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([O:21][H])[S]C 10=20;20,21=21"
"C[NH+:10]([H])[C:20]([NH:21][H])([O][H])[O]CC.[Cl-]>>[Cl-].C[NH:10][H].[H][NH+:21]=[C:20]([O][H])[O]CC 21=20;20,10=10"
"CN([C:20]1(OC(C(C([O:21]1)CCCCCC)CC)CCCCCC)[O-:10])C1=CC=CC=C1>>CN([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)CC)CCCCCC)C1=CC=CC=C1 10=20;20,21=21"
"[O:10]([K])C(C)C(C)/C(C)=C([H])\[C:20](OC)=[O:21]>>[O-:21][C:20]1(OC)C([H])=C(C)C(C)C(C)[O+:10]1([K]) 10=20;20,21=21"
"C[S+:10]([H])[C:20]1([O:21]C)[S][CH](C)C([H])[CH](CC)[S]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[S][CH](C)[CH]([H])C(CC)[S]2.C[S:10][H] 21=20;20,10=10"
"C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)CC)C.[O-:21]C1=CC=CC=C1>>C1=CC=CC=C1C1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]C1=CC=CC=C1)CC)C 21=20;20,10=10"
"[O-:21][CH:20]2(OCC)C(C3=C(C([O:10]2)C)C=CC=C3)O>>[O-:10]C(C1=C(C([CH:20](OCC)=[O:21])O)C=CC=C1)C 21=20;20,10=10"
"[H][O:10]C(C9=CC=CC=C9)C(C)C(C)[O][C:20]([O][H])=[NH+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C(C)C(C)[O]1)[C:20]1([NH:21]C)[O][H] 10=20;20,21=21"
"CC[S+:10]([H])[C:20]1([O:21]C)[O][CH](C7=CC=CC=C7)C([H])[CH](CC)[O]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH]([H])C(CC)[O]2.CC[S:10][H] 21=20;20,10=10"
"C[NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH]([H])C([H])[O]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([NH:21]C)[NH][CH](C7=CC=CC=C7)C([H])[CH]([H])[O]1 10=20;20,21=21"
"C6=CC=CC=C6[NH+:21]=[C:20]2[NH]C(CC)C(C)[O]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH]C(CC)C(C)[O]1 10=20;20,21=21"
"[H][S:10]C([H])C(C)C(C8=CC=CC=C8)[O][C:20]([S]CC)=[O+:21]C.[Cl-]>>[Cl-].[H][S+:10](C([H])C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([O:21]C)[S]CC 10=20;20,21=21"
"CCCCCCC1C(C(O[C:20](N1CC)([O-:10])[O:21]CC)C1=CC=CC=C1)[H]>>CCCCCCC1C(C(O[C:20](=[O:10])N1CC)C1=CC=CC=C1)[H].[O-:21]CC 10=20;20,21=21"
"[H][NH+:10]([H])[C:20]1([NH:21]CC)[O][CH]([H])C(C)[CH](C8=CC=CC=C8)[NH]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[O][CH]([H])[CH](C)C(C8=CC=CC=C8)[NH]2.[H][NH:10][H] 21=20;20,10=10"
"C[NH+:10]([H])[C:20]([NH:21]CC)([NH]C8=CC=CC=C8)[NH][H].[Cl-]>>[Cl-].C[NH:10][H].CC[NH+:21]=[C:20]([NH]C8=CC=CC=C8)[NH][H] 21=20;20,10=10"
"[H][O+:10](C([H])C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21][H])[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C([H])C(C)C(C8=CC=CC=C8)[O][C:20]([O]C7=CC=CC=C7)=[NH+:21][H] 21=20;20,10=10"
"CCCCCCN([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)[H])C)C1=CC=CC=C1>>CCCCCCN([C:20]1(OC(C(C([O:21]1)CCCCCC)[H])C)[O-:10])C1=CC=CC=C1 21=20;20,10=10"
"C9=CC=CC=C9[NH+:10]([H])[C:20]([NH:21]C)([O]C8=CC=CC=C8)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].C9=CC=CC=C9[NH:10][H].C[NH+:21]=[C:20]([O]C8=CC=CC=C8)[O]C7=CC=CC=C7 21=20;20,10=10"
